US08975276B2
A 2.0-5.0 mL microwave vial was charged with 2-(6-bromo-2-phenylimidazo[1,2-a]pyridin-7-yl)-5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyrazine (45 mg, 0.107 mmol) and dissolved in toluene (1073 μL). To that stirring solution was added sodium tert-butoxide (36.1 mg, 0.376 mmol), BINAP (6.68 mg, 10.73 μmol), pyrrolidine (22.90 mg, 0.322 mmol), and palladium(II) acetate (2.410 mg, 10.73 μmol). The vial was sealed and degassed using ultra pure argon under sonication for 1 minute. Once purged, the vial was placed in a reaction block preheated to 110° C. The reaction was let stir overnight. After 19 hours at 110° C. the reaction mixture was cooled to room temperature and diluted with ethyl acetate and water. The contents of the vial were filtered through a pad of diatomaceous earth (Celite®) and the layers were separated. The organic layer was concentrated under reduced pressure to remove excess pyrrolidine and then rediluted with ethyl acetate and transferred into a separatory funnel. The organic was washed with brine (×2), dried with magnesium sulfate, concentrated under reduced pressure, and purified by prepHPLC: Column: Waters XBridge C18 100×30 mm 5 μm, Solvents: water/acetonitrile/TFA, % B gradient (time): 0% (2 min), 0-100% (12 min), 100% (1 min), Flow Rate: 42 mL/min, 3 injections (1 mL DMSO). The desired fractions were collected and neutralized using a saturated solution of sodium bicarbonate and then diluted with ethyl acetate. The layers were separated and the organic was concentrated under reduced pressure and then diluted with methanol and passed through a Phenomenex STRATA-XC 1 g cartridge and was with several volumes of methanol. The product was eluted with 25 mL of 2.0M ammonia in methanol to give 5,8-dimethyl-2-(2-phenyl-6-(pyrrolidin-1-yl)imidazo[1,2-a]pyridin-7-yl)-[1,2,4]triazolo[1,5-a]pyrazine (4.7 mg, 0.01079 mmol, 10% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.40 (s, 1H), 8.13 (s, 1H), 8.09 (s, 1H), 7.97 (d, J=7.0 Hz, 2H), 7.87 (s, 1H), 7.46 (t, J=7.5 Hz, 2H), 7.38-7.30 (m, 1H), 2.98-2.87 (m, 4H), 2.85 (s, 3H), 2.74 (s, 3H), 1.84-1.78 (m, 4H). Mass found 410 [M+H]+.

reactant | 2-(6-bromo-2-phenylimidazo[1,2-a]pyridin-7-yl)-5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyrazine | 0.107 mmol, 45 mg | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)C2=NN1C(C(=NC=C1C)C)=N2 | C20H15BrN6
reactant | sodium tert-butoxide | 0.376 mmol, 36.1 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 10.73 μmol, 6.68 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | pyrrolidine | 0.322 mmol, 22.90 mg | N1CCCC1 | C4H9N
solvent | toluene | 1073 μL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 10.73 μmol, 2.410 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5,8-dimethyl-2-(2-phenyl-6-(pyrrolidin-1-yl)imidazo[1,2-a]pyridin-7-yl)-[1,2,4]triazolo[1,5-a]pyrazine | 0.01079 mmol, 4.7 mg, 10% yield | CC1=CN=C(C=2N1N=C(N2)C2=CC=1N(C=C2N2CCCC2)C=C(N1)C1=CC=CC=C1)C | C24H23N7
